US04996225
(a) 1,2-diphenyl-1-[4-(2-bromoethoxy)phenyl]-1-buten-4-ol (Z)
A mixture containing 31.6 g of (Z)-1,2-diphenyl-1-(4-hydroxyphenyl)-1-buten-4-ol, 93.9 g of dibromoethane, 20.7 g of anhydrous potassium carbonate and 250 ml of methyl ethyl ketone is refluxed for 24 h. The inorganic salts are removed by filtration followed by evaporating the solvent and recrystallizing from methanol. The yield is 17.3 g (41%) and m.p. 133°-7° C.

reactant | (Z)-1,2-diphenyl-1-(4-hydroxyphenyl)-1-buten-4-ol | 31.6 g | C1(=CC=CC=C1)/C(=C(\CCO)/C1=CC=CC=C1)/C1=CC=C(C=C1)O | C22H20O2
reactant | dibromoethane | 93.9 g | BrC(C)Br | C2H4Br2
reactant | potassium carbonate | 20.7 g | C([O-])([O-])=O.[K+].[K+]
solvent | methyl ethyl ketone | 250 ml | C(C)C(=O)C | C4H8O
product | 1,2-diphenyl-1-[4-(2-bromoethoxy)phenyl]-1-buten-4-ol | C1(=CC=CC=C1)C(=C(CCO)C1=CC=CC=C1)C1=CC=C(C=C1)OCCBr | C24H23BrO2
